US06515023B2
To a 0° C. solution of 13 g (49 mmol) 2-bromo-1-(3,4-dichlorophenyl)ethanone in 250 ml THF was added 17 g (53 mmol) (+)-B-chlorodiisopinocampheyl-borane. The reaction mixture was stirred 6 hours at 0° C., then allowed to warm to room temperature and stir 14 hours. An additional 2 g (6 mmol) of (+)-B-chlorodiisopinocampheyl-borane was added and the reaction mixture stirred 4 more hours, then concentrated in vacuo. To this was added 250 ml ether and 10 ml diethanolamine and the resulting slurry stirred for 2 hours, then filtered through celite. The filtercake was washed 2×200 ml ether and the combined filtrates washed with 500 ml 10% aqueous KHSO4, 500 mL saturated aqueous NaHCO3, and 500 mL brine, then dried over MgSO4, filtered and concentrated. Purification by flash chromatography (9×20 cm silica gel, 100% CH2Cl2) afforded 11.2 g 2-bromo-1-(3,4-dichlorophenyl)ethanol. 1H NMR(300 mHz, CDCl3) 7.52 (d, 1H, J=3 Hz); 7.45 (d, 1H, J=9 Hz); 7.22 (dd, 1H, J=9and 3 Hz); 4.70 (dt, 1H, J=9 and 3.4 Hz); 3.62 (dd, 1H, J=11 and 3.4 Hz); 3.49 (dd, 1H; J=11 and 9 Hz); 2.66 (d, 1H; J=3.4 Hz)

reactant | 2-bromo-1-(3,4-dichlorophenyl)ethanone | 49 mmol, 13 g | BrCC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | (+)-B-chlorodiisopinocampheyl-borane | 53 mmol, 17 g | B([C@H]1C[C@H]2C[C@@H]([C@@H]1C)C2(C)C)([C@H]3C[C@H]4C[C@@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | (+)-B-chlorodiisopinocampheyl-borane | 6 mmol, 2 g | B([C@H]1C[C@H]2C[C@@H]([C@@H]1C)C2(C)C)([C@H]3C[C@H]4C[C@@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2-bromo-1-(3,4-dichlorophenyl)ethanol | 11.2 g | BrCC(O)C1=CC(=C(C=C1)Cl)Cl | C8H7BrCl2O
